US04957934
Bromine (11.6g) in chloroform (40ml) was added dropwise to a stirred solution of 4-chloro-α-phenoxyacetophenone (18.8g) in chloroform (1200ml) containing dibenzoyl peroxide (50 mg) under photoflood illumination. The reaction was complete after 2 hours, and the chloroform was removed under reduced pressure to give α-bromo-4-chloro-α-phenoxyacetophenone which was used without further purification.

reactant | Bromine | 11.6g | BrBr | Br2
reactant | 4-chloro-α-phenoxyacetophenone | 18.8g | ClC1=CC=C(OCC(=O)C2=CC=CC=C2)C=C1 | C14H11ClO2
reactant | dibenzoyl peroxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 40ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1200ml | C(Cl)(Cl)Cl | CHCl3
product | α-bromo-4-chloro-α-phenoxyacetophenone | BrC(C(=O)C1=CC=CC=C1)OC1=CC=C(C=C1)Cl | C14H10BrClO2
